US05214037
To a suspension of 7β-phenylacetylamino-3-(1,2,3-triazol -4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (186 mg : 0.296 mMol ) in dichloromethane (3 ml) under ice cooling is added anisole (0.45 ml) and trifluoroacetic acid (0.45 ml), and the mixture is stirred for 1 hour 40 minutes. The reaction mixture is concentrated, triturated with hexane, and washed with ethyl acetate to give 7β- phenylacetylamino-3-(1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4- carboxylic acid as white solid (67 mg). Yield : 49%.

reactant | 7β-phenylacetylamino-3-(1,2,3-triazol -4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.296 mMol, 186 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)CSC=2N=NNC2 | C31H27N5O3S3
reactant | anisole | 0.45 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.45 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 7β- phenylacetylamino-3-(1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4- carboxylic acid | 67 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2N=NNC2)C(=S)O)C1=O | C18H17N5O3S3
